US04691023
N-[2-(2-Aminoethyldithio)ethyl]acetamide (Compound 2)
The method of S. J. Brois et al. (loc. cit.) was employed. Methyl-2-aminoethylsulfenylthiocarbonate hydrochloride in methanol solution was treated with acetylcysteamine at 0° C. The reaction, without triethylamine accelerator, was practically instantaneous.

reactant | Methyl-2-aminoethylsulfenylthiocarbonate hydrochloride | Cl.CS(=C(O)O)SCCN
reactant | acetylcysteamine | C(C)(=O)NCCS | C4H9NOS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | N-[2-(2-Aminoethyldithio)ethyl]acetamide | NCCSSCCNC(C)=O | C6H14N2OS2
